US04199597
To 2-methoxy-6-methylphenol (27.6 g=0.20 mol) in 300 ml toluene, add aluminum chloride (4.0 g=30 mmol). Bubble in hexafluoroacetone (47 g=0.28 mol) over 7 hours. Heat the reaction mixture in a steel bomb 16 hours at 120° C. Cool, and pour the contents onto 1.0 N HCl. Extract with ether. Wash the ether layer with 1.0N NaOH. Acidify the basic aqueous layer with concentrated HCl, extract with ether, dry, concentrate and distill to obtain a fraction boiling at 71°-74° C./0.1 mm. Crystallize from cold hexane to obtain, as a solid m.p. 44°-45° C., 4-(hexafluoro-2-hydroxy-2-propyl)-2-methoxy-6-methylphenol.

reactant | 2-methoxy-6-methylphenol | 0.20 mol, 27.6 g | COC1=C(C(=CC=C1)C)O | C8H10O2
reactant | aluminum chloride | 30 mmol, 4.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hexafluoroacetone | 0.28 mol, 47 g | FC(C(=O)C(F)(F)F)(F)F | C3F6O
reactant | HCl | 1.0 N | Cl | ClH
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(hexafluoro-2-hydroxy-2-propyl)-2-methoxy-6-methylphenol | FC(C(C(F)(F)F)(O)C1=CC(=C(C(=C1)C)O)OC)(F)F | C11H10F6O3
